US06573289B1
Production of 4-[1-Methoxy-1-(6-methoxynaphthalen-2-yl)ethyl]-1H-imidazole
4-[1-Methoxy-1-(6-methoxynaphthalen-2-yl)ethyl]-1-trityl-1H-imidazole (1.5 g) and pyridine hydrochloride (500 mg) were dissolved in methanol (8 ml). The solution was stirred at 60° C. for 2 h. After cooling, 1 N-hydrochloric acid was added to the solution, and precipitate was filtered off. The filtrate was washed with ether and neutralized with potassium carbonate. The filtrate was extracted with ethyl acetate, washed with saturated aqueous solution of sodium chloride, dried and concentrated. The residue was purified by silica gel column chromatography (eluent, ethyl acetate:methanol=30:1) to give the titled compound (0.33 g) as a colorless powder.

reactant | 4-[1-Methoxy-1-(6-methoxynaphthalen-2-yl)ethyl]-1-trityl-1H-imidazole | 1.5 g | COC(C)(C1=CC2=CC=C(C=C2C=C1)OC)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C36H32N2O2
reactant | pyridine hydrochloride | 500 mg | Cl.N1=CC=CC=C1
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 8 ml | CO | CH4O
product | 4-[1-Methoxy-1-(6-methoxynaphthalen-2-yl)ethyl]-1H-imidazole | 0.33 g | COC(C)(C1=CC2=CC=C(C=C2C=C1)OC)C=1N=CNC1 | C17H18N2O2
